US07202350B2
(1S)-2,3,4,6-Tetra-0-acetyl-1,5-anhydro-1-[5-(1-benzothiophene-2-ylmethyl)-2-(cyclopentyloxy)phenyl]-D-glucitol (381 mg) was dissolved in methanol (10 ml). Sodium methoxide (32 mg) was added to the solution, and the mixture was stirred for three hours at room temperature. The reaction mixture was neutralized with acid ion-exchange resin, and the resin was separated by filtration. The filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (chloroform-methanol) to obtain (1S)-1,5-anhydro-1-[5-(1-benzothiene-2-yl)methyl]-2-(cyclopentyloxy)phenyl]-D-glucitol (215 mg).

reactant | Sodium methoxide | 32 mg | C[O-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
product | glucitol | 215 mg | C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
